US04062881
Into a 2 liter flask is placed 182 gm (1.5 mole) 2-mercaptoethyl acetate, 200 ml water, 300 ml heptane and 120 gm (0.5 mole) monomethyltin trichloride. To the above stirred mixture is added portionwise 126 gm (1.5 mole) sodium bicarbonate maintaining a pot temperature of 25°-40° C. by the addition rate. When addition is complete, allow to stir 1 hour at 25°-40° C. The layers are separated and the organic phase washed with 200 ml water. The heptane is removed under vacuum. A yield of 240 gm, monomethyltin tris(2-mercaptoethyl acetate) is obtained as a colorless oil. nD25 1.5575.

reactant | 2-mercaptoethyl acetate | 1.5 mole, 182 gm | C(C)(=O)OCCS | C4H8O2S
reactant | water | 200 ml | O | H2O
reactant | monomethyltin trichloride | 0.5 mole, 120 gm | C[Sn](Cl)(Cl)Cl
reactant | sodium bicarbonate | 1.5 mole, 126 gm | C([O-])(O)=O.[Na+]
solvent | heptane | 300 ml | CCCCCCC | C7H16
product | monomethyltin tris(2-mercaptoethyl acetate) | SCCCC(=O)[O-].SCCCC(=O)[O-].SCCCC(=O)[O-].C[Sn+3] | InChI=1S/3C4H8O2S.CH3.Sn/c3*5-4(6)2-1-3-7;;/h3*7H,1-3H2,(H,5,6);1H3;/q;;;;+3/p-3
